US08703805B2
1-(2-chlorophenyl)-5-[3-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole was prepared in a manner similar to that described in Examples 1c by using 1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl trifluoromethanesulfonate and 3-(methylsulfonyl)phenylboronic acid. 1H-NMR (CDCl3): δ 7.90 (1H, m), 7.76 (1H, d), 7.57-7.47 (3H, m), 7.46-7.42 (3H, m), 6.92 (1H, s), 2.92 (3H, s). MS (ES): 401 [M+H]+.

reactant | 1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=NN1C1=C(C=CC=C1)Cl)C(F)(F)F)(F)F | C11H5ClF6N2O3S
reactant | 3-(methylsulfonyl)phenylboronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 1-(2-chlorophenyl)-5-[3-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC(=CC=C1)S(=O)(=O)C)C(F)(F)F | C17H12ClF3N2O2S
